US08314097B2
4-Methyl-3-Trifluoromethoxybenzonitrile is brominated with NBS according to Example 1A to give 4-bromomethyl-3-trifluoromethoxybenzonitrile. 1H NMR (400 MHz, CDCl3) δ (ppm) 4.51 (s, 2H), 7.55 (br s, 1H), 7.59 (d, J=8.0z, 1H), 7.64 (d, J=8.0 Hz, 1H).

reactant | 4-Methyl-3-Trifluoromethoxybenzonitrile | CC1=C(C=C(C#N)C=C1)OC(F)(F)F | C9H6F3NO
reactant | NBS | C1CC(=O)N(C1=O)Br | C4H4BrNO2
product | 4-bromomethyl-3-trifluoromethoxybenzonitrile | BrCC1=C(C=C(C#N)C=C1)OC(F)(F)F | C9H5BrF3NO
